US08048899B2
To a solution of 2-(5-amino-1,3,4-thiadiazol-2-yl)-2-methyl-propan-1-ol (10.0 g, 57.8 mmol) in DCM (100.0 mL) is added at 0° C. triethylamine (21.0 mL, 173.4 mmol) followed by di-tert-butyl dicarbonate (14.0 g, 63.6 mmol). The reaction mixture is stirred at room temperature for 24 h. Then the solvent is removed under reduced pressure and the crude is purified by column chromatography to afford 12.0 g of [5-(2-hydroxy-1,1-dimethyl-ethyl)-1,3,4-thiadiazol-2-yl]-carbamic acid tert-butyl ester as a white solid; m/z 274 [M+H].

reactant | 2-(5-amino-1,3,4-thiadiazol-2-yl)-2-methyl-propan-1-ol | 57.8 mmol, 10.0 g | NC1=NN=C(S1)C(CO)(C)C | C6H11N3OS
reactant | triethylamine | 173.4 mmol, 21.0 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 63.6 mmol, 14.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 100.0 mL | C(Cl)Cl | CH2Cl2
product | [5-(2-hydroxy-1,1-dimethyl-ethyl)-1,3,4-thiadiazol-2-yl]-carbamic acid tert-butyl ester | 12.0 g | C(C)(C)(C)OC(NC=1SC(=NN1)C(CO)(C)C)=O | C11H19N3O3S
